data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:10][C:11]1(CCC(CC1)CCCCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1)CCCCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)C1=CC(=C(C=C1)O)C(=O)O.CCCCCC[NH+]1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=[O:10])CC4.CO.COC=[O+]C>>[H:20][O+:10]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CC[NH+]3CCCCCC.C1=CC(=C(C=C1S(=O)(=O)[O-:21])C(=O)O)O.CO.COC=[O+]C 10=20;20,21=21
[H:20][C:21]12COC3C([C+:22]1C(=C4C(=C2)OCO4)Br)C=CC5C3OC(O5)(C)C.C(F)(F)(F)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C(F)(F)F.CC1(OC2C=CC3C(C2O1)OC[C:21]4=[C:22]3C(=C5C(=C4)OCO5)Br)C 10=20;20,21=21,22
C[O:10]C.C[Si:20](C)(C)OS(=O)(=O)C>>C[O+:10](C)[Si-:20](C)(C)(C)OS(=O)(=O)C 10=20,
C1C[C:20](CCC1OC(=O)C2=CC=CC=C2)([N:10]3CCN(CC3)C4=CC=CC=C4)[OH2+:21].CC(=O)[O-]>>C1C[C:20](=[N+:10]2CCN(CC2)C3=CC=CC=C3)CCC1OC(=O)C4=CC=CC=C4.[OH2:21].CC(=O)[O-] 10=20;20,21=21
CCC([C:20](O)([OH:10])[OH+:21]CC[NH3+])O>>CCC([C:20](=[OH+:10])O)O.C(C[OH:21])[NH3+] 10=20;20,21=21
[H:20][NH+:21]1CCCC1C(=O)[O-].CC12CCC(C=C1CCC2=O)([N:10]3CCCC3C(=O)[O-])O.O>>[H:20][N+:10]1(CCCC1C(=O)[O-])C2(CCC3(C(=C2)CCC3=O)C)O.C1CC([NH:21]C1)C(=O)[O-].O 10=20;20,21=21
[H:20][S:21]CCCBr.CC[O-:10]>>[H:20][O:10]CC.C(C[S-:21])CBr 10=20;20,21=21
CCOC(=O)CCCCC=CC(C1C(CC(=O)C1CCC(=O)OCC)O[Si](C)(C)C(C)(C)C)[S:10]C2=CC=CC=C2.C1=CC(=CC(=C1)[C:22](=[OH+:23])[O:21][O-:20])Cl>>CCOC(=O)CCCCC=CC(C1C(CC(=O)C1CCC(=O)OCC)O[Si](C)(C)C(C)(C)C)[S+:10](C2=CC=CC=C2)[O-:20].C1=CC(=CC(=C1)[C:22](=[O:21])[OH:23])Cl 10=20;22,23=23;20,21=21,22
[H:20][OH:21].CC(C)CC[O-:10]>>[H:20][O:10]CCC(C)C.[OH-:21] 10=20;20,21=21
CC(=O)CC[C:20](C)([NH:10]CCOCCO)[OH2+:21].CC(=O)[O-].C1=CC=CC=C1>>C[C:20](=[NH+:10]CCOCCO)CCC(=O)C.[OH2:21].CC(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
[H:20][O+:21](N=C1CC(C2=CC=CC=C12)CC)S(=O)(=O)C.CC[N:10](CC)CC.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CCC1CC(=N[O:21]S(=O)(=O)C)C2=CC=CC=C12.[Cl-] 10=20;20,21=21
[H:20][O:21]C.CC1CC2(CCC(C1[O-:10])C2=O)C(=O)OC>>[H:20][O:10]C1C(CC2(CCC1C2=O)C(=O)OC)C.C[O-:21] 10=20;20,21=21
[H:20][O:21]C1=NC2CCC1CC=CC2.[OH-:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+].[Cl-]>>[H:20][OH:10].C1CC2CC=CCC1C(=N2)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+].[Cl-] 10=20;20,21=21
[H:20][NH+:21]1CCCCC1.CC(C(=O)[NH3+])NC(=O)[O-:10].C=C1C2=C(C=CC=C2)C3=CC=CC=C13>>[H:20][O:10]C(=O)NC(C)C(=O)[NH3+].C1CC[NH:21]CC1.C=C1C2=C(C=CC=C2)C3=CC=CC=C13 10=20;20,21=21
[H:20][O:21]CC.CC1CCC(CC1)S(=O)(=O)[C:11](=[C:10]2CCCC2)[N-:12]C=O>>[H:20][C:10]1(CCCC1)[C:11](=[N:12]C=O)S(=O)(=O)C2CCC(CC2)C.CC[O-:21] 10,11=10,20;20,21=21;12=11
CC(C)CC1CC[CH2:10][C:11](C1)([CH2:20][N+:21]#N)[OH:12].O.[Cl-]>>CC(C)CC1CC[CH2:10][CH2:20][C:11](=[OH+:12])C1.N#[N:21].O.[Cl-] 10,11=10,20;20,21=21;12=11
[H:20][O+:21]=C(CC(C1=CC=CC=C1)[NH3+])OCCC.[OH2:10].CCCO.OS(=O)(=O)[O-]>>[H:20][OH2+:10].CCCOC(=[O:21])CC(C1=CC=CC=C1)[NH3+].CCCO.OS(=O)(=O)[O-] 10=20;20,21=21
[H:10][Al-:11](CC(C)C)(CC(C)C)[O+:21]=[C:20](C)OC>>[H:10][C:20](C)(OC)[O:21][Al:11](CC(C)C)CC(C)C 10,11=10,20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)C(F)(F)F)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C(C=C2)C(F)(F)F)[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
CC(C)C1CCC([C:20]1=[O:21])C2CCC3=C(C2[C:11](=[CH2:10])[O-:12])C=CC=C3>>CC(C)C1CCC2[C:20]1([CH2:10][C:11](=[O:12])C3C2CCC4=C3C=CC=C4)[O-:21] 10,11=10,20;20,21=21;12=11
[H:10][AlH2-:11]O[C:20](=[N:21]C)CCC(C)OS(=O)(=O)C1=CC=C(C=C1)C>>[H:10][C:20](CCC(C)OS(=O)(=O)C1=CC=C(C=C1)C)([N-:21]C)O[AlH2:11] 10,11=10,20;20,21=21
[Li-:20]1[N+](CC[N+]1(C)C)(C)C.CC(C)C(CC(CC=C)C=C)[O-:10]>>[Li-2:20]1([N+](CC[N+]1(C)C)(C)C)[O:10]C(CC(CC=C)C=C)C(C)C 10=20,
C[C:22](=[O:23])[CH:21]=[CH:20]C1=CC=CC=C1.O[O-:10]>>C[C:22](=[CH:21][CH:20](C1=CC=CC=C1)[O:10]O)[O-:23] 10=20;22,23=23;20,21=21,22
COC1=CC(=CC=C1)C[O-:10].C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1CC(=O)NC1=O>>COC1=CC(=CC=C1)C[O:10][P:20](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)Br.C1CC(=O)NC1=O 10=20,
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:24]1=[CH:23][CH:22]=[C:21](C=C1)[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
CCCC(CCC(=O)N(C)CC)[N:10]=[N:20][OH2+:21]>>CCCC(CCC(=O)N(C)CC)[N+:10]#[N:20].[OH2:21] 10=20;20,21=21
[H:20][O:21]C(=O)C1=C(CSC2N1C(=O)C2NC(=O)CC3=CC=CC=C3)C=C.CCOC(=O)N[N-:10]C(=O)OCC.CC(C)OC(=O)C(CO[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)NC(=O)OC(C)(C)C>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.C=CC1=C(N2C(C(C2=O)NC(=O)CC3=CC=CC=C3)SC1)C(=O)[O-:21].CC(C)OC(=O)C(CO[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)NC(=O)OC(C)(C)C 10=20;20,21=21
[H:20][CH:21](C1=CC(=C(C=C1)[N+](=O)[O-])F)[CH:22](C)[Br:23].[OH-:10]>>[H:20][OH:10].C[CH:22]=[CH:21]C1=CC(=C(C=C1)[N+](=O)[O-])F.[Br-:23] 10=20;22,23=23;20,21=21,22
[H:10][C:11]1(CCC(CC1C2CCCCC2)CCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1C2CCCCC2)CCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
CCC([C:20]1=[NH+:21]CCO1)O.[OH2:10]>>CCC([C:20]1([NH:21]CCO1)[OH2+:10])O 10=20;20,21=21
